US04814454
A. 6-(1-Hydroxypentyl)-2-naphthol
To a solution of 1.00 g (4.48 mmol, Aldrich) of 6-bromo-2-naphthol in 40 ml of dry ether at -78° was added dropwise 3.2 ml (1.4M in ether, 5.0 mmol) of methyllithium solution. The reaction mixture was stirred for 5 minutes then 5.0 ml (1.8M in pentane, 9.0 mmol) of t-butyllithium solution was added over 5 minutes. The resulting slurry was stirred at -78° C. for 30 minutes then at 0° for 15 minutes, re-cooled to -78° and a solution of 0.50 ml (4.7 mmol) of distilled valeraldehyde in 3 ml of ether was added dropwise over several minutes. After 5 minutes the reaction mixture was warmed to 0°, quenched with 1 ml of H2O, added to 100 ml of ice-cold saturated aqueous NH4Cl solution. The organic layer was separated, washed with 100 ml of H2O, dried (MgSO4) and concentrated in vacuo to give a dark oil. The crude oil was purified by flash chromatography (10×5.0 cm, 1:3 EtOAc/petroleum ether) to afford 590 mg (57%) of title compound as a pale yellow solid, m.p. 109°-111°.

reactant | 6-bromo-2-naphthol | 4.48 mmol, 1.00 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | methyllithium | 5.0 mmol, 1.4M, 3.2 ml | C[Li]
reactant | t-butyllithium | 9.0 mmol, 1.8M, 5.0 ml | C(C)(C)(C)[Li]
reactant | valeraldehyde | 4.7 mmol, 0.50 ml | C(CCCC)=O | C5H10O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 3 ml | CCOCC | C4H10O
product | 6-(1-Hydroxypentyl)-2-naphthol | 590 mg, 57% | OC(CCCC)C=1C=C2C=CC(=CC2=CC1)O | C15H18O2
